US07622492B2
A solution of di-tert-butyl dicarbonate (11.3 g, 51.3 mmol) in tetrahydrofuran (40 mL) was added dropwise over 1 h to a cooled (0° C.) solution of benzylhydrazine (prepared by the neutralization of benzylhydrazine hydrochloride [10.00 g, 51.3 mmol] with saturated aqueous sodium carbonate [10 mL)) in methanol. The reaction mixture was stirred at 0° C. for 1 h and then the solvent was evaporated. The resulting colorless oil was purified by column chromatography, eluting with 20-40% ethyl acetate/hexanes, to give N-benzyl-hydrazinecarboxylic acid tert-butyl ester (3.60 g, 32%) as a colorless oil.

reactant | di-tert-butyl dicarbonate | 51.3 mmol, 11.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzylhydrazine | C(C1=CC=CC=C1)NN | C7H10N2
reactant | benzylhydrazine hydrochloride | 51.3 mmol, 10.00 g | Cl.C(C1=CC=CC=C1)NN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-benzyl-hydrazinecarboxylic acid tert-butyl ester | 3.60 g, 32% | C(C)(C)(C)OC(=O)N(N)CC1=CC=CC=C1 | C12H18N2O2
